US04435403
A solution of 3.1 g of potassium hydroxide in 40 ml of methanol is added to a mixture of 150 ml of dimethylformamide, 6.9 g of beta-carboline-3-carboxaldehyde and 3.1 g of hydroxylamino-hydrochloride. The reaction mixture is allowed to stand at room temperature overnight. After evaporation, 50 ml of water is added. The reaction product is filtered off. 6.9 g of the air-dried product is heated in the steam bath together with 35 ml of 2 propanol and, after cooling, is filtered off. 5 g of beta-carboline-3-carboxaldehyde-oxime with a melting point of 229°-231° C. is obtained.

reactant | potassium hydroxide | 3.1 g | [OH-].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | beta-carboline-3-carboxaldehyde | 6.9 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=O | C12H8N2O
reactant | hydroxylamino-hydrochloride | 3.1 g | ONCl | ClH2NO
solvent | methanol | 40 ml | CO | CH4O
product | beta-carboline-3-carboxaldehyde-oxime | 5 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=NO | C12H9N3O
